US03994920
Condense o-(p-chlorobenzoyl)benzoic acid (13 g.) and N-ethylethylenediamine (15 ml.) by the procedure of Example 1 to obtain 1-ethyl-9b-(p-chlorophenyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, m.p. 114° C. (elemental analysis confirms the empirical formula C18H17ClN2O).

reactant | o-(p-chlorobenzoyl)benzoic acid | 13 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | N-ethylethylenediamine | 15 ml | C(C)NCCN | C4H12N2
product | 1-ethyl-9b-(p-chlorophenyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | C(C)N1CCN2C1(C1=CC=CC=C1C2=O)C2=CC=C(C=C2)Cl | C18H17ClN2O
